US06194406B1
(+)-1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.3 g, 1.2 mmol), 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydrochloric acid salt (0.52 g, 1.12 mmol), potassium iodide (0.2 g), and N,N-diisopropylethylamine (0.4 g, 4 mmol) in acetonitrile (20 mL). Heat to reflux. After 18 hours, cool and dilute the reaction mixture ethyl acetate. Extract three times with a half saturated aqueous sodium bicarbonate solution, and then brine. Dry the organic layer over Na2SO4, filter, and concentrate in uacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 40% methanol/ethyl acetate/1% concentrated aqueous ammonia solution to give, after drying in vacuo at 70° C., the title compound: mp; 73-78° C. [α]2D0=+7.7° (c=1.04, methanol). Rf=0.23 (silica gel, 40% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.2 mmol, 0.3 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C1OC)OC | C23H29NO7S
reactant | 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydrochloric acid salt | 1.12 mmol, 0.52 g | Cl.OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | N,N-diisopropylethylamine | 4 mmol, 0.4 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCO)C=CC=C3)C=C(C1OC)OC | C36H45N5O5
